US09290490B2
To a solution of trans-4-{1-hydroxy-1-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]ethyl}cyclohexanecarbonitrile (214 mg, 0.439 mmol) in DMF (4.4 mL) was added zinc bromide (99 mg, 0.439 mmol) and sodium azide (29 mg, 0.439 mmol) and the reaction was heated overnight to 130° C. The reaction was then cooled to room temperature and diluted with a small amount of water. DMSO (2 mL) was added and the solution was purified by reverse phase HPLC to afford racemic 2-{[3-(2-{1-hydroxy-1-[trans-4-(2H-tetrazol-5-yl)cyclohexyl]ethyl}-1,3-thiazol-5-yl)-5-methylphenyl]amino}-4-(trifluoromethyl)pyrimidin-1-ium trifluoroacetate. The enantiomers were separated by supercritical fluid chromatography (chiral OJ column, 2:8 methanol/CO2 with a 12 minute run time) to yield 2-{[3-(2-{(1R)-1-hydroxy-1-[trans-4-(2H-tetrazol-5-yl)cyclohexyl]ethyl}-1,3-thiazol-5-yl)-5-methylphenyl]amino}-4-(trifluoromethyl)pyrimidin-1-ium trifluoroacetate and 2-{[3-(2-{(1S)-1-hydroxy-1-[trans-4-(2H-tetrazol-5-yl)cyclohexyl]ethyl}-1,3-thiazol-5-yl)-5-methylphenyl]amino}-4-(trifluoromethyl)pyrimidin-1-ium trifluoroacetate. Characterization for the faster eluting enantiomer (Rt=6.38 min): MS ESI calc'd. for C24H27F3N8OS [M+H]+531. found 531. 1H NMR (500 MHz, DMSO-d6) δ 10.25 (s, 1H), 8.83 (d, J=4.9, 1H), 7.99-7.94 (m, 2H), 7.46 (s, 1H), 7.27 (d, J=4.9, 1H), 7.15 (s, 1H), 5.90 (s, 1H), 2.90-2.71 (m, 1H), 2.31 (s, 3H), 2.13-1.88 (m, 3H), 1.83-1.67 (m, 1H), 1.67-1.56 (m, 1H), 1.51 (s, 3H), 1.47-1.31 (m, 3H), 1.29-1.09 (m, 1H). rhSyk=+++. rhSyk (slower eluting enantiomer, Rt=8.71 min)=+++

reactant | trans-4-{1-hydroxy-1-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]ethyl}cyclohexanecarbonitrile | 0.439 mmol, 214 mg | OC(C)(C=1SC(=CN1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C)[C@@H]1CC[C@H](CC1)C#N | C24H24F3N5OS
reactant | sodium azide | 0.439 mmol, 29 mg | [N-]=[N+]=[N-].[Na+]
reactant | DMSO | 2 mL | CS(=O)C | C2H6OS
reactant | DMF | 4.4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | zinc bromide | 0.439 mmol, 99 mg | [Br-].[Zn+2].[Br-]
product | racemic 2-{[3-(2-{1-hydroxy-1-[trans-4-(2H-tetrazol-5-yl)cyclohexyl]ethyl}-1,3-thiazol-5-yl)-5-methylphenyl]amino}-4-(trifluoromethyl)pyrimidin-1-ium trifluoroacetate | FC(C(=O)[O-])(F)F.OC(C)([C@@H]1CC[C@H](CC1)C=1N=NNN1)C=1SC(=CN1)C=1C=C(C=C(C1)C)NC1=[NH+]C=CC(=N1)C(F)(F)F | InChI=1S/C24H25F3N8OS.C2HF3O2/c1-13-9-15(11-17(10-13)30-22-28-8-7-19(31-22)24(25,26)27)18-12-29-21(37-18)23(2,36)16-5-3-14(4-6-16)20-32-34-35-33-20;3-2(4,5)1(6)7/h7-12,14,16,36H,3-6H2,1-2H3,(H,28,30,31)(H,32,33,34,35);(H,6,7)/t14-,16-,23?;
